US04492659
The monosodium salt of 1,12-dodecanediol is reacted with pentyl bromide to give 12-pentoxydodecanol which, after elution on a silica gel column with ligroin-methyl ethyl ketone (4:1 v/v), gives a thin layer chromatographically uniform oil. The yield is 52% of theory. This is then brominated with phosphorus tribromide in the presence of pyridine and, after fractionation on a silica gel column (diethyl ether-ligroin 1:99 v/v as elution agent) gives 47% of theory of thin layer chromatographically uniform oily 12-pentoxydodecyl bromide. This bromide is reacted with the monosodium salt of 1,3-propanediol and then gives, in a yield of 56% of theory, after column purification (elution agent diethyl ether-ligroin 1:1 v/v), 3-(12-pentoxydodecyloxy)propanol; m.p. 25° C. Phosphorylation, hydrolysis and reaction with trimethylamine take place in the manner described in Example 1 to give a yield of 41% of theory of the desired product; m.p. 63° C. (sinters), 240°-243° C. (decomp.). It crystallizes with 1 mole of water of crystallization.

reactant | monosodium | [Na] | Na
reactant | 1,12-dodecanediol | C(CCCCCCCCCCCO)O | C12H26O2
reactant | pentyl bromide | C(CCCC)Br | C5H11Br
product | 12-pentoxydodecanol | yield is 52% | C(CCCC)OCCCCCCCCCCCCO | C17H36O2
